US04187316
A solution of 180 mg (1 m mole) of 3-acetamido-1,5-cyclohexadiene carboxylic acid in 5 ml of dichloromethane is treated with 202 mg (2 m mole) of triethylamine and 94 mg (1 m mole) of methylchloroformate. After 30 minutes at 25° C. the solution is treated with 60 mg (1 m mole) of n-propylamine for 1 hour at 25° C. after which the solution is diluted with dichloromethane and, washed with water, dried and evaporated to give N-propyl-3-acetamido-1,5-cyclohexadienecarboxamide.

reactant | 3-acetamido-1,5-cyclohexadiene carboxylic acid | 180 mg | C(C)(=O)NC1C=C(C=CC1)C(=O)O | C9H11NO3
reactant | triethylamine | 202 mg | C(C)N(CC)CC | C6H15N
reactant | methylchloroformate | 94 mg | COC(=O)Cl | C2H3ClO2
reactant | n-propylamine | 60 mg | C(CC)N | C3H9N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-propyl-3-acetamido-1,5-cyclohexadienecarboxamide | C(CC)NC(=O)C1=CC(CC=C1)NC(C)=O | C12H18N2O2
